US07501518B2
To a solution of 4-methyl-3-nitrobenzoic acid (5.52 g, 30.5 mmol) in MeOH (100 mL) was added 98% sulfuric acid (2 mL) and the resultant mixture was refluxed overnight, then cooled to room temperature. The mixture was concentrated and the residue was dissolved in CH2Cl2 (50 mL) and water (20 mL). Solid Na2CO3 was added until the aqueous phase was basic to litmus paper. The phases were separated and the aqueous phase was extracted with CH2Cl2 (5×20 mL). The combined organic extracts were dried (Na2SO4) and concentrated and provided 5.79 g (97%) of 4-methyl-3-nitrobenzoic acid methyl ester as a white solid. To a solution of 4-methyl-3-nitrobenzoic acid methyl ester (5.01 g, 25.7 mmol) in CCl4 (65 mL) was added N-bromosuccinimide (5.04 g, 28.3 mmol) followed by 1,1′-azobis(cyclohexanecarbonitrile) (1.21 g, 4.96 mmol). The resultant mixture was refluxed for 24 hours then cooled to room temperature, filtered through filter paper, and concentrated. Purification of the crude material by column chromatography on silica gel (9:1:hexanes-EtOAc) provided 4.30 g (61%) of 4-bromomethyl-3-nitrobenzoic acid methyl ester as a yellow oil. 1H NMR (CDCl3) δ 3.98 (s, 3H), 4.85 (s, 2H), 7.67 (d, 1H, J=7.8 Hz), 8.25 (d, 1H, J=7.8, 1.5 Hz), 8.66 (d, 1H, J=1.5 Hz).

reactant | 4-methyl-3-nitrobenzoic acid methyl ester | 25.7 mmol, 5.01 g | COC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C9H9NO4
reactant | N-bromosuccinimide | 28.3 mmol, 5.04 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | 4.96 mmol, 1.21 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
solvent | CCl4 | 65 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-3-nitrobenzoic acid methyl ester | 4.30 g, 61% | COC(C1=CC(=C(C=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
